US08791161B2
2-(Pyridin-2-yl)ethanol (1 g, 8.12 mmol) was first treated with SOCl2 (3 ml) in CH2Cl2 (10 ml) at rt for 3 hrs. The solvent was removed to get a crude 2-(2-chloroethyl)pyridine. Then following General Procedure A, the title compound (1.69 g, 79%) was prepared from 2-amino-4-chlorobenzenethiol (1.6 g, 9.74 mmol), K2CO3 (3.36 g, 24.36 mmol) in DMF (20 ml).

reactant | 2-(Pyridin-2-yl)ethanol | 8.12 mmol, 1 g | N1=C(C=CC=C1)CCO | C7H9NO
reactant | SOCl2 | 3 ml | O=S(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-(2-chloroethyl)pyridine | ClCCC1=NC=CC=C1 | C7H8ClN
